US07211601B2
(2S,4EZ)-4-(tert-butoxyimino)-N-cyclopropyl-1-(phenoxyacetyl)-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-tert-butoxycarbonyl)-4-(tert-butoxyimino)-2-pyrrolidinecarboxylic acid, phenoxyacetyl chloride, and cyclopropylamine the title compound was obtained in 73% purity by LC/MS. MS(ESI+): m/z=374.2.

reactant | 4-(tert-butoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)ON=C1CC(NC1)C(=O)O | C9H16N2O3
reactant | phenoxyacetyl chloride | O(C1=CC=CC=C1)CC(=O)Cl | C8H7ClO2
reactant | cyclopropylamine | C1(CC1)N | C3H7N
product | (2S,4EZ)-4-(tert-butoxyimino)-N-cyclopropyl-1-(phenoxyacetyl)-2-pyrrolidinecarboxamide | C(C)(C)(C)ON=C1C[C@H](N(C1)C(COC1=CC=CC=C1)=O)C(=O)NC1CC1 | C20H27N3O4
